US08048902B2
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (4 g, 14.2 mmol) was dissolved in toluene (150 mL). Triethylamine (2.187 mL, 15.6 mmol) was added, followed by diphenylphosphoryl azide (3.372 mL, 15.6 mmol), and the mixture was stirred for 10 minutes. 2-Fluoro-alpha-methylbenzyl alcohol (2 g, 15.6 mmol) was added, and the reaction was stirred at 80° C. overnight. The mixture was cooled to room temperature and concentrated, and the residue was partitioned between with EtOAc and water. The organic layer was washed 4 times with water and once with brine, and then dried, filtered, and concentrated, and the residue was purified by silica gel chromatography (dry load; 0-100% EtOAc in hexanes) to give [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-fluoro-phenyl)-ethyl ester.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 14.2 mmol, 4 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | Triethylamine | 15.6 mmol, 2.187 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 15.6 mmol, 3.372 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-Fluoro-alpha-methylbenzyl alcohol | 15.6 mmol, 2 g | FC1=C(C(C)O)C=CC=C1 | C8H9FO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-fluoro-phenyl)-ethyl ester | FC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrFN2O3
